US07192968B2
(1R,3S,4S)-3-Azido-4-(N-tert-butoxycarbonyl-amino)-1-(tert-butyldiphenylsilyloxymethyl)cyclohexane (2.59 g) was dissolved in methanol (50 ml), and 10% palladium on carbon (200 mg) was added to stir the mixture for 20 hours in a hydrogen atmosphere. After the catalyst was removed by filtration, the solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (methanol:dichloromethane=1:20→1:10) to obtain (1S,2S,4R)-N1-tert-butoxycarbonyl-4-(tert-butyldiphenylsilyloxymethyl)-1,2-cyclohexanediamine (1.66 g) as a pale yellow oil.

reactant | (1R,3S,4S)-3-Azido-4-(N-tert-butoxycarbonyl-amino)-1-(tert-butyldiphenylsilyloxymethyl)cyclohexane | 2.59 g | N(=[N+]=[N-])[C@H]1C[C@@H](CC[C@@H]1NC(=O)OC(C)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C28H40N4O3Si
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | (1S,2S,4R)-N1-tert-butoxycarbonyl-4-(tert-butyldiphenylsilyloxymethyl)-1,2-cyclohexanediamine | 1.66 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](C[C@@H](CC1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)N | C28H42N2O3Si
